US08563617B2
30.5 7-Amino-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile hydrochloride
Tert-butyl [1-(4-chlorobenzyl)-7-cyano-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (15 mg, 0.038 mmol) was dissolved in dichloromethane (1.5 mL) and 5 M hydrochloric acid in isopropanol (0.3 mL) was added. The reaction mixture was stirred for 3 h at room temperature. The solvent and the excess hydrochloric acid were evaporated in vacuo. Yield: 11 mg (0.033 mmol, 87%, colorless solid).

reactant | Tert-butyl [1-(4-chlorobenzyl)-7-cyano-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | 0.038 mmol, 15 mg | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)C#N)NC(OC(C)(C)C)=O)C=C1 | C23H25ClN2O2
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | isopropanol | 0.3 mL | C(C)(C)O | C3H8O
product | 7-Amino-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile hydrochloride | Cl.NC1CCC=2C=CC(=CC2C1CC1=CC=C(C=C1)Cl)C#N | InChI=1S/C18H17ClN2.ClH/c19-15-6-2-12(3-7-15)9-17-16-10-13(11-20)1-4-14(16)5-8-18(17)21;/h1-4,6-7,10,17-18H,5,8-9,21H2;1H
